US09259470B2
Potassium bis(trimethylsilyl)amide (0.91M in THF, 0.202 mL) was added to a cooled to 0° C. suspension of 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (40 mg, 0.147 mmol) in 2-methyltetrahydrofuran (4 mL) The mixture was agitated 15 minutes, and (S)-3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)propyl methanesulfonate (81.6 mg, 0.206 mmol) in 2-methyltetrahydrofuran (1 mL) was added. The mixture was then heated to 75° C. and agitated overnight. The reaction was quenched with saturated sodium bicarbonate solution and diluted with ethyl acetate (5 mL). The organic layer was washed with water (2×) and evaporated. Purified by chromatography on silica gel, eluted with 50-75% ethyl acetate/hexanes to give (R)-1-(3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)propyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.056 g, 0.0977 mmol, 66.5% yield) as thick oil.

reactant | Potassium bis(trimethylsilyl)amide | 0.91M, 0.202 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.147 mmol, 40 mg | O1CCC(CC1)NC1=NC=CC(=N1)C1=CC(NC=C1)=O | C14H16N4O2
reactant | (S)-3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)propyl methanesulfonate | 0.206 mmol, 81.6 mg | CS(=O)(=O)O[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)F | C16H26ClFO4SSi
solvent | 2-methyltetrahydrofuran | 4 mL | CC1OCCC1 | C5H10O
solvent | 2-methyltetrahydrofuran | 1 mL | CC1OCCC1 | C5H10O
product | (R)-1-(3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)propyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.0977 mmol, 0.056 g, 66.5% yield | [Si](C)(C)(C(C)(C)C)OCC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O | C29H38ClFN4O3Si
